### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction/LFunction): formal Euler products of Dirichlet series

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines formal Euler products of Dirichlet series. See #36189 for how this will ultimately be used to construct L-functions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 1]
```diff
@@ -0,0 +1,137 @@
...
+
+## TODO
+* If each `f i` is multiplicative, then `ArithmeticFunction.eulerProduct f` is multiplicative.
+-/
+
+@[expose] public section
+
+namespace ArithmeticFunction
+
+section EulerProduct -- Euler product of Arithmetic Functions
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]:
```suggestion
section EulerProduct
```
Feel free to keep it if you want.

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
...
+
+open Filter
+
+variable {ι R : Type*} [CommSemiring R]
+
+/-- A private uniform space instance on `ArithmeticFunction` in order to define `eulerProduct` as a
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: Can you add a comment on how it is (mathematically) defined?

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 3]
```diff
@@ -0,0 +1,137 @@
...
+      simp [hg]
+    · simp_rw [coe_mk, Set.EqOn, Finset.mem_coe, Set.setOf_forall, biInter_finset_mem]
+      exact fun i hi ↦ hg i
+
+/-- The Euler product of a family of arithmetic functions. Defined as a `tprod`, but see
+`tendsTo_eulerProduct_of_tendsTo` for the outward facing `eulerProduct` API. -/
+noncomputable def eulerProduct (f : ι → ArithmeticFunction R) : ArithmeticFunction R :=
+  ∏' i, f i
+
+set_option backward.isDefEq.respectTransparency false in
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]:
```suggestion
```
Not needed anymore.

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 4]
```diff
@@ -0,0 +1,137 @@
...
+      exact ⟨g₁ i, Filter.mem_of_superset htf fun g₂ hg₂ ↦ @ht (g₁, g₂) ⟨hg₁, hg₂⟩⟩
+    choose g hg using hf'
+    refine ⟨⟨g, ?_⟩, fun s ↦ ?_⟩
+    · specialize hg 0
+      contrapose! hg
+      simp [hg]
+    · simp_rw [coe_mk, Set.EqOn, Finset.mem_coe, Set.setOf_forall, biInter_finset_mem]
+      exact fun i hi ↦ hg i
+
+/-- The Euler product of a family of arithmetic functions. Defined as a `tprod`, but see
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:68]: What about making everything private until here? Do you expect people to really use the previous declarations?

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:68]: I can't see how to make the instances private, and ultimately it's just `uniformity_eq` and `tendsto_iff` that are marked as private.

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 5]
```diff
@@ -0,0 +1,139 @@
...
+See `tendsTo_eulerProduct_of_tendsTo` for the outward facing `eulerProduct` API. -/
+private theorem uniformity_eq : uniformity (ArithmeticFunction R) =
+    comap (fun i ↦ (i.1, i.2)) (⨅ s : Finset ℕ, 𝓟 {((f : ℕ → R), g) | Set.EqOn f g s}) :=
+  rfl
+
+/-- The topology on `ArithmeticFunction` is the topology of pointwise convergence.
+See `tendsTo_eulerProduct_of_tendsTo` for the outward facing `eulerProduct` API. -/
+private theorem tendsto_iff
+    {f : ι → ArithmeticFunction R} {F : Filter ι} {g : ArithmeticFunction R} :
+    Tendsto f F (nhds g) ↔ ∀ n, Filter.Tendsto (fun i ↦ f i n) F (pure (g n)) := by
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: for pointwise convergence, I'd expect to see `nhds` rather than `pure`, here and below?

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: But there's no topology on `R`.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: The coefficients convergence pointwise in the strongest possible sense (they are eventually constant).

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: Ah, I see! Can you should mention that somewhere in the docstrings?

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: eg, instead of saying "converge pointwise" (which to me suggests there is a topology), could you say "are eventually equal to"

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean [hunk 6]
```diff
@@ -0,0 +1,139 @@
...
+
+open Filter
+
+variable {ι R : Type*} [CommSemiring R]
+
+/-- A private uniform space instance on `ArithmeticFunction R` in order to define `eulerProduct` as
+a `tprod`. If `R` is viewed as having the discrete topology, then the resulting topology on
+`ArithmeticFunction R` is the topology of pointwise convergence (see `tendsto_iff`).
+
+See `tendsTo_eulerProduct_of_tendsTo` for the outward facing `eulerProduct` API. -/
```
Comment (b-mehta) [inline Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: How does this approach compare to https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/PiTopology.html#PowerSeries.WithPiTopology.instTopologicalSpace?

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: That's different because it uses the topology on `R` which isn't present here.

Comment (riccardobrasca) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: @ADedecker @AntoineChambert-Loir  can you have a look? (Anatole, you can safely ignore the number theory and focus on the convergence).

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: I'm not quite sure I agree - if R is given the discrete topology, then that gives the same results as you have here. But that one is more general, it also *allows* R to have other topologies, and recovers the content in this PR when specialised to the discrete topology (which is always possible to do)

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: (cf discussion here https://github.com/leanprover-community/mathlib4/pull/30618#discussion_r2578722314, which also concluded that keeping the version with the topology, and allowing specialisation to discrete, was better)

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean (hunk 5 above)
Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: Actually, since `tendsto_pure` is a `simp`-lemma, I think it's probably best to just rewrite these in terms of `Filter.eventually`.

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean]: yup, agreed

File: Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean (hunk 6 above)
Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Well, one thing is that I actually want the uniform space structure here (for `multipliable_iff_cauchySeq_finset`).

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: But I do see your point that I could locally impose the discrete topology on `R` and then use that topological space instance.

Comment (ADedecker) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: My opinion from a quick look:
- it would definitely make your life easier to just pull back the product uniform structure already existing on `ℕ → R`, either assuming that `R` has a uniform structure or locally endowing it with the discrete one. For example `CompleteSpace` would come essentially for free using [IsUniformInducing.completeSpace](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/UniformSpace/UniformEmbedding.html#IsUniformInducing.completeSpace). 
- ~~how much do you care about the definitional properties of the `eulerProduct`? You could also take the `tprod` in bare functions and upgrade it to an arithmetic function.~~ (That was stupid sorry...)
- now, the question of "do we allow any topology on `R`" does depend on what you will do with this uniform structure/topology. In the case of power series, a key application was that, even if `R` has the discrete topology, when we consider `R[[X]][[Y]]`, it is important not to force the discrete topology on `R[[X]]`, but I don't think this applies here.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Well, one issue is that the `tprod` is Dirichlet convolution, not multiplication of power series.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Ok, following @ADedecker's suggestion shaves of 20 lines. But I'm not sure we want to allow non-discrete topologies on `R`, since even when `R` is the complex numbers, you only consider euler products where the coefficients converge in the discrete topology.

Comment (b-mehta) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: > But I'm not sure we want to allow non-discrete topologies on `R`, since even when `R` is the complex numbers, you only consider euler products where the coefficients converge in the discrete topology.

ah this is a fair point, yeah let's keep it as is then

Comment (AntoineChambert-Loir) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Just a remark: Dirichlet series is a particular case of what Bourbaki calls the "large algebra of a monoid", namely the strictly positive integers with multiplication, another important particular case being the rings of power series. In that respect, I would advocate that Mathlib implements this concept once and for all, and endows it with the topology of simple convergence, as is done for power series.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: But for Dirichlet series in particular, I though that the L-function crew (@loefflerd?) found working with Nat and imposing `f 0 = 0` to be preferable to working with PNat?

Comment (AntoineChambert-Loir) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: That is also true. I'm also thinking about what will happen when people will want to formalize multiple Dirichlet series…

Comment (loefflerd) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: > But for Dirichlet series in particular, I though that the L-function crew (@loefflerd?) found working with Nat and imposing `f 0 = 0` to be preferable to working with PNat?

@MichaelStollBayreuth any thoughts on this?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Yes; this was the conclusion I arrived at after experimenting a bit. Section 2 of the [paper](https://doi.org/10.46298/afm.15328) by David and myself in AoFM has some discussion based on [this Zulip thread](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2310725.20and.20.2310728.3A.20L-series/near/422590170) .

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Note that we *do not* impose `f 0 = 0`; instead we just ignore the value at zero (or, rather, replace it by zero if you like).

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: Well, currently in mathlib, `ArithmeticFunction` is a type synonym of `ZeroHom` which imposes `f 0 = 0`.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: But `LSeries` takes an arbitrary function on Nat and ignores the value at 0 as you say.

Comment (AntoineChambert-Loir) [reply Mathlib/NumberTheory/ArithmeticFunction/LFunction.lean:39]: In higher dimensions, one would probably either ignore the values at non-regular elements, or insist that they map to 0. I this happened to be important, this would be bread for other PRs.
